US08748613B2
Preparation of 2-(piperidin-1-yl)-2-(thiophen-3-yl)acetic acid (I107)
Thiophen-3-ylboronic acid (300 mg, 2.34 mmol) was added to a solution of 2-oxoacetic acid hydrate (216 mg, 2.34 mmol) and piperidine (0.23 ml, 2.34 mmol) in acetonitrile (11.7 ml). The mixture was heated to reflux for 5 hours. The reaction was cooled to room temperature and the suspension was filtered on a buckner funnel washing with acetonitrile (8 ml). The title compound (528 mg, quantitative yield) was collected from the filter as an off-white solid.

reactant | Thiophen-3-ylboronic acid | 2.34 mmol, 300 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 2-oxoacetic acid hydrate | 2.34 mmol, 216 mg | O.O=CC(=O)O
reactant | piperidine | 2.34 mmol, 0.23 ml | N1CCCCC1 | C5H11N
solvent | acetonitrile | 11.7 ml | C(C)#N | C2H3N
product | 2-(piperidin-1-yl)-2-(thiophen-3-yl)acetic acid | 528 mg, quantitative yield | N1(CCCCC1)C(C(=O)O)C1=CSC=C1 | C11H15NO2S
